US08236487B2
Synthesis of UDP-GalN-biotin.
UDP-galactosamine (UDP-GalN) is formed from UDP-Glc and galactosamine-1-phosphate by the action of galactose-1-phosphate uridyltransferase (E.C. 2.7.7.12; Sigma, USA). A typical synthesis protocol is described below. The reaction mixture contains 10 mM galactosamine-1-phosphate, 20 mM UDP-Glc, 5 U/ml of galactose-1-phosphate uridyltransferase, 100 mM Na-HEPES pH 8.0, 5 mM MgCl2, and 5 mM β-mercaptoethanol. The reaction vessel is incubated at room temperature under nitrogen atmosphere for 3 days, after which nucleotide sugars are isolated from the reaction mixture with a graphitised carbon column essentially as in (Mäki et al., 2002). The nucleotide sugar mixture, containing UDP-Glc and UDP-GalN, is incubated with a molar excess of sulfosuccinimidyl-6-(biotinamido)hexanoate (sulfo-NHS-LC-biotin; Pierce, USA) in 50 mM NH4HCO3 at room temperature for 2.5 hours. The product, UDP-GalN-biotin, uridine 5′-diphospho-N-(6-biotinamidohexanoyl)galactosamine, is purified by gel filtration and reversed phase HPLC.

reactant | UDP-Glc | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O)O | C15H24N2O17P2
reactant | UDP-GalN | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O[C@@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O)N)O)O | C15H25N3O16P2
reactant | sulfosuccinimidyl-6-(biotinamido)hexanoate | S(=O)(=O)(O)C(C(=O)[O-])(CCCCNC(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)=O)N1C(CCC1=O)=O
product | UDP GalN biotin | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O)O)O.OC1[C@@H]([C@@H](O)[C@@H](O)[C@H](O1)CO)N.OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | InChI=1S/C10H16N2O3S.C9H14N2O12P2.C6H13NO5/c13-8(14)4-2-1-3-7-9-6(5-16-7)11-10(15)12-9;12-5-1-2-11(9(15)10-5)8-7(14)6(13)4(22-8)3-21-25(19,20)23-24(16,17)18;7-3-5(10)4(9)2(1-8)12-6(3)11/h6-7,9H,1-5H2,(H,13,14)(H2,11,12,15);1-2,4,6-8,13-14H,3H2,(H,19,20)(H,10,12,15)(H2,16,17,18);2-6,8-11H,1,7H2/t6-,7-,9-;4-,6-,7-,8-;2-,3-,4+,5-,6?/m011/s1
